US06780875B2
4-(4-{4-[4-((S)-2-Methyl-1-phenyl-propylcarbamoyl)-2-phenyl-quinolin-3-ylmethyl]-piperazin-1-yl}-4-oxo-butyric acid
200 mg (0.42 mmol) of 2-phenyl-3-piperazin-1-ylmethylquinoline-4-carboxylic acid ((S)-1-phenyl-propyl)-amide (compound of Description 13) were dissolved in 5 ml acetone and 42 mg of succinic anhydride were added. The mixture was then refluxed for 10 hours. After cooling the mixture was diluted with 50 ml of CH2Cl2, washed three times with 30 ml water, dried over MgSO4, concentrated to dryness. The residue was purified by flash chromatography on silicagel (CH2Cl2/MeOH: 90/10) to afford 130 mg of the title compound as white crystals (yield 54%).

reactant | 2-phenyl-3-piperazin-1-ylmethylquinoline-4-carboxylic acid ((S)-1-phenyl-propyl)-amide | 0.42 mmol, 200 mg | C1(=CC=CC=C1)[C@H](CC)NC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)CN1CCNCC1 | C30H32N4O
reactant | succinic anhydride | 42 mg | C1(CCC(=O)O1)=O | C4H4O3
reactant | acetone | 5 ml | CC(=O)C | C3H6O
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-{4-[4-((S)-2-Methyl-1-phenyl-propylcarbamoyl)-2-phenyl-quinolin-3-ylmethyl]-piperazin-1-yl}-4-oxo-butyric acid | 130 mg, yield 54% | CC([C@@H](C1=CC=CC=C1)NC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)CN1CCN(CC1)C(CCC(=O)O)=O)C | C35H38N4O4
